US04898863
N-[4-[6-(N-Cyclopentylmethylcarbamoyl)-3-[2-(morpholinocarbonyl)ethyl]indol-1-ylmethyl]-3-methyoxybenzoyl]benzenesulfonamide
Using a similar procedure to the described in Example 2, but starting from 4-[6-(N-cyclopentylmethylcarbamoyl)-3-[2-(morpholinocarbonyl)ethyl]indol-1-ylmethyl]-3-methoxybenzoic acid and phenylsulfonamide, the title compound was obtained as a white solid (69%); mp 244°-245°.

reactant | 4-[6-(N-cyclopentylmethylcarbamoyl)-3-[2-(morpholinocarbonyl)ethyl]indol-1-ylmethyl]-3-methoxybenzoic acid | C1(CCCC1)CNC(=O)C1=CC=C2C(=CN(C2=C1)CC1=C(C=C(C(=O)O)C=C1)OC)CCC(=O)N1CCOCC1 | C31H37N3O6
reactant | phenylsulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
product | N-[4-[6-(N-Cyclopentylmethylcarbamoyl)-3-[2-(morpholinocarbonyl)ethyl]indol-1-ylmethyl]-3-methyoxybenzoyl]benzenesulfonamide | C1(CCCC1)CNC(=O)C1=CC=C2C(=CN(C2=C1)CC1=C(C=C(C(=O)NS(=O)(=O)C2=CC=CC=C2)C=C1)OC)CCC(=O)N1CCOCC1 | C37H42N4O7S
